US07550598B2
(Z)-methyl 2-(2-(3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)benzoate
The title compound was prepared from (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one and methyl 2-mercaptobenzoate using a procedure analogous to the one described in Example 6. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.96 (s, 3H) 3.88 (s, 3H) 6.77 (s, 1H) 7.50-7.72 (m, 3H) 7.76-7.92 (m, 3H) 7.96 (d, J=8.12 Hz, 1H) 8.16 (d, J=8.18 Hz, 1H) 10.39 (s, 1H) 13.20 (bs, 1H); ESI-MS: m/z calc'd for C21H17N3O3S 391.10. found 392.3 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-methyl-1H-pyrazol-5(4H)-one | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)C | C13H10ClN3O
reactant | methyl 2-mercaptobenzoate | SC1=C(C(=O)OC)C=CC=C1 | C8H8O2S
product | (Z)-methyl 2-(2-(3-methyl-5-oxo-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)benzoate | CC/1=NNC(\C1=C\1/NC2=CC=CC=C2C(=C1)SC1=C(C(=O)OC)C=CC=C1)=O | C21H17N3O3S
